US08877744B2
b) (R)-5-[2,4-Difluoro-5-(6-trifluoromethyl-benzooxazol-2-yl)-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-thione
In a manner analogous to that described in Example 2b), the reaction of (R)-5-[2,4-difluoro-5-(6-trifluoromethyl-benzo oxazol-2-yl)-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one (163 mg, 332 μmol) with Lawesson's reagent (145 mg, 359 μmol) yielded the title compound (113 mg, 67% yield as a white solid. MS (ISP): m/z=507.1 [M+H]+.

reactant | (R)-5-[2,4-difluoro-5-(6-trifluoromethyl-benzo oxazol-2-yl)-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one | 332 μmol, 163 mg | FC1=C(C=C(C(=C1)F)C=1OC2=C(N1)C=CC(=C2)C(F)(F)F)[C@]2(NC(COC(C2(F)F)(C)C)=O)C | C22H17F7N2O3
reactant | Lawesson's reagent | 359 μmol, 145 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | (R)-5-[2,4-Difluoro-5-(6-trifluoromethyl-benzooxazol-2-yl)-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-thione | 67% yield | FC1=C(C=C(C(=C1)F)C=1OC2=C(N1)C=CC(=C2)C(F)(F)F)[C@]2(NC(COC(C2(F)F)(C)C)=S)C | C22H17F7N2O2S
